Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-6.98908255217
[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-5.5542026226
[C:9]([H:10])([H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-1.38027712148
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]=[C:11]([H:12])[H:13])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-0.8076965294490001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.80136300501
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.57824183641
[H:1][C:2][O:3][C:4]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-3.02602976886
[H:18].[H:1][C:2]([C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.89324347876
[H:8].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.43572436801
[H:7].[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.24739356853
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.113580375350001
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:5]([H:6])[O:7][H:8].[H:4],1.99260076618
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5],3.66396689077
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17],4.3813936297900025
[H:1][C:2]([C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[C:6]([C:4][H:5])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.71679726133
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],4.34991031795
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11].[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-3.74094078714
[H:1][C:2]#[C:3][C:4]#[C:5][O:7][O:8][H:9].[H:6]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][O:8][H:9],-2.64007050494
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[O:6],1.3252399227399998
[H:5].[O:1]=[C:2]([C:3]#[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.92355230513
[H:4].[O:1]=[C:2]([H:3])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.18285031898
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][O:3][C:4](=[C:5])[C:10]([H:11])([H:12])[H:13],3.99958079808
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:1][C:2](=[O:3])[O:5][C:6]#[C:7][H:8].[H:4],2.69966103542
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4][C:6]([C:5])([H:7])[H:8],0.589466791131
[C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.76530077244
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[O:7],1.98916542425
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],4.68493274215
